* SPICE Netlist

* Transistor Components
Q1 2 2 5 NPN
Q2 3 2 5 NPN
Q3 4 2 2 PNP
Q4 3 3 2 NPN

* Diode Components
D1 2 2 Dmodel
D2 2 3 Dmodel

* Voltage Sources
VCC 2 0 DC VCC_value
VEE 3 0 DC VEE_value
Vb1 4 0 DC Vb1_value
Vin 3 0 DC Vin_value

* Load Resistor
Rout 5 0 Rout_value

.model Dmodel D